US05861417
Alternately, combine methyl 2-methoxy-5-(1H-tetrazol-1-yl)benzoate (13.3 g, 56.8 mmol) and methanol (150 mL). Add 1M aqueous solution of sodium hydroxide (62.5 mL, 62.5 mmol). Heat to reflux. After 30 minutes, add methanol (50 mL) and water (50 mL) and continue the heat at reflux. After 1 hour, concentrate invacuo to remove most of the solvent. Adjust the pH to about 1 to 2 using a 1M aqueous hydrochloric acid solution to give a solid. Collect the solid by filtration, rinse with water, and dry to give 2-methoxy-5-(1H-tetrazol-1-yl)benzoic acid.

reactant | methyl 2-methoxy-5-(1H-tetrazol-1-yl)benzoate | 56.8 mmol, 13.3 g | COC1=C(C(=O)OC)C=C(C=C1)N1N=NN=C1 | C10H10N4O3
reactant | methanol | 150 mL | CO | CH4O
reactant | sodium hydroxide | 62.5 mmol, 62.5 mL | [OH-].[Na+]
reactant | methanol | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 2-methoxy-5-(1H-tetrazol-1-yl)benzoic acid | COC1=C(C(=O)O)C=C(C=C1)N1N=NN=C1 | C9H8N4O3
